US07713982B2
b) 8-chloro-3-pentyl-3,7-dihydro-1H-purine-2,6-dione
A flask containing tetrakis(triphenylphosphine)-palladium (0) (56 mg, 0.049 mmol) was flushed with nitrogen, before a solution of 8-chloro-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (96 mg, 0.323 mmol) in anhydrous THF (1.5 ml) was added, followed by DMSO (0.1 ml) and morpholine (0.28 ml, 0.049 mmol). The resulting mixture was stirred at room temperature under nitrogen for 72 hours. The reaction mixture was dissolved in EtOAc (25 ml) and washed with 2M HCl aq. (25 ml). The organic extract was dried (MgSO4) filtered and evaporated under reduced pressure. Purification by amino propyl SPE (2 g) loading and washing with methanol and then eluting the product with 5% acetic acid in methanol. Evaporation of fractions containing product afforded the title compound as a white solid (27 mg, 33%). NMR; δH (400 MHz, d6-DMSO) 0.85 (t, 3H, J=7 Hz), 1.20-1.34 (m, 4H), 1.57-1.67 (m, 2H), 3.84 (t, 2H, J=7 Hz), 11.19 (s, 1H), 14.38 (br. s, 1H); m/z 257.2[MH+].

reactant | 8-chloro-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.323 mmol, 96 mg | ClC1=NC=2N(C(NC(C2N1CC=C)=O)=O)CCCCC | C13H17ClN4O2
reactant | DMSO | 0.1 ml | CS(=O)C | C2H6OS
reactant | morpholine | 0.049 mmol, 0.28 ml | N1CCOCC1 | C4H9NO
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.049 mmol, 56 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 8-chloro-3-pentyl-3,7-dihydro-1H-purine-2,6-dione | 27 mg, 33% | ClC1=NC=2N(C(NC(C2N1)=O)=O)CCCCC | C10H13ClN4O2
